US05728686
a) Diethyl 3-bromopropanephosphonate
A mixture of 605 g (3.0 mol) of 1,3-dibromopropane and 250 g (1.5 mol) of triethyl phosphite was heated at an oil bath temperature of 130° C., while stirring and passing in nitrogen, for approximately 5 hours until approximately 154 g (1.5 mol) of bromoethane distilled over into a strongly ice-cooled receiver. The reaction mixture was distilled first in a bulb tube and then fractionally.

reactant | 1,3-dibromopropane | 3.0 mol, 605 g | BrCCCBr | C3H6Br2
reactant | triethyl phosphite | 1.5 mol, 250 g | P(OCC)(OCC)OCC | C6H15O3P
reactant | bromoethane | 1.5 mol, approximately 154 g | BrCC | C2H5Br
product | Diethyl 3-bromopropanephosphonate | BrCCCP(OCC)(=O)OCC | C7H16BrO3P
